US05837878
Methyl 4-aminomethylsalicylate hydrochloride (2.25 g, 10.3 mmoles) was suspended in anhydrous N,N-dimethylformamide (30 mL), and N,N-diisopropylethylamine (3.6 mL, 20.7 mmoles) was added, followed by N-tert-butoxycarbonyl-6-aminohexanoic acid succinimidyl ester (3.38 g, 10.3 mmoles). The mixture was stirred under dry nitrogen for 18 hours, during which time all solids dissolved. The solvent was then evaporated to leave a light brown syrup, which was partitioned between ethyl acetate (100 mL) and 1M aqueous hydrochloric acid (100 mL). The layers were separated, and the ethyl acetate solution was washed with saturated aqueous sodium bicarbonate (100 mL) and saturated aqueous sodium chloride (100 mL). The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered, and evaporated to an amorphous off-white solid. The solid was crystallized form ethyl acetate/hexanes, filtered, and dried in vacuo to afford 3.25 g (80% yield) of methyl (N-tert-butoxycarbonyl-6-aminohexanoyl)aminomethylsalicylate (m.p. 120°-121° C., open capillary, uncorrected).

reactant | Methyl 4-aminomethylsalicylate hydrochloride | 10.3 mmoles, 2.25 g | Cl.NCC=1C=C(C(C(=O)OC)=CC1)O
reactant | N,N-diisopropylethylamine | 20.7 mmoles, 3.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-tert-butoxycarbonyl-6-aminohexanoic acid succinimidyl ester | 10.3 mmoles, 3.38 g | C1(CCC(N1OC(CCCCCNC(=O)OC(C)(C)C)=O)=O)=O | C15H24N2O6
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl (N-tert-butoxycarbonyl-6-aminohexanoyl)aminomethylsalicylate | 3.25 g, 80% yield | C(C)(C)(C)OC(=O)NCCCCCC(=O)NCOC=1C(C(=O)OC)=CC=CC1 | C20H30N2O6
